US07737166B2
4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-N,N,5-trimethyl-6-vinyl-1,3-benzoxazole-2-carboxamide (#92)
4-Cyano-7-fluoro-N,N,5-trimethyl-6-vinyl-1,3-benzoxazole-2-carboxamide (I-185) (130 mg, 0.48 mmol) was dissolved in dimethyl sulfoxide (8 ml), then at room temperature, triethylamine (100 μl, 0.48 mmol) was added. The solution was gradually heated from room temperature up to 150° C. under nitrogen atmosphere, a solution of (3S)-3-(dimethylamino)pyrrolidine (79 μl, 0.62 mmol) dissolved in dimethyl sulfoxide (1 ml) was added all at a time. The solution was stirred at the same temperature for 1.25 hours, and the cooled to room temperature. This was fractionated with ethyl acetate and an aqueous saturated sodium hydrogencarbonate solution. The aqueous layer was further extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away under reduced pressure, and the resulting residue was purified by preparative TLC (eluent, chloroform:methanol=93:7) to obtain a roughly-purified product (124 mg). This was washed with diisopropyl ether to obtain the entitled compound (87 mg, 50%) as a yellow solid.

reactant | 4-Cyano-7-fluoro-N,N,5-trimethyl-6-vinyl-1,3-benzoxazole-2-carboxamide | 0.48 mmol, 130 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)F)C=C)C | C14H12FN3O2
reactant | triethylamine | 0.48 mmol, 100 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 0.62 mmol, 79 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethyl sulfoxide | 8 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-N,N,5-trimethyl-6-vinyl-1,3-benzoxazole-2-carboxamide | 124 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)N2C[C@H](CC2)N(C)C)C=C)C | C20H25N5O2
